US05196427
Indole (10 g, 85 mmol), Meldrum's acid (12.3 g, 85 mmol), benzaldehyde (18.11 g, 171 mmol) and proline (0.05 g) were combined with 50 ml of acetonitrile and stirred in an oil bath at approximately 35°-40° C. for two hours [Y. Oikawa, H. Hirasawa, and O. Honemitsu, Tetrahedron Letters, 1759 (1978)]. The reaction mixture was concentrated in vacuo to dryness. The residue was slurried with methanol and filtered to provide 19.99 grams of 3-[α-(2,2-dimethyl-4,6-dioxo-1,3-dioxane-5-yl)benzyl]indole. A portion of the product was recrystallized from ethyl acetate to provide a white crystalline product: mp 147°-150° C.

reactant | Indole | 85 mmol, 10 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | Meldrum's acid | 85 mmol, 12.3 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | benzaldehyde | 171 mmol, 18.11 g | C(C1=CC=CC=C1)=O | C7H6O
catalyst | proline | 0.05 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 3-[α-(2,2-dimethyl-4,6-dioxo-1,3-dioxane-5-yl)benzyl]indole | 19.99 grams | CC1(OC(C(C(O1)=O)C(C1=CC=CC=C1)C1=CNC2=CC=CC=C12)=O)C | C21H19NO4
